US07238689B2
3.7 g (26.8 mmoles) of anhydrous potassium carbonate and 4.2 g (26.6 mmoles) of ethyl iodide were added to a solution of 1.5 g (10.7 mmoles) of ethyl 1H-pyrazole-4-carboxylate dissolved in 50 ml of N,N-dimethylformamide. The mixture was stirred at room temperature for 20hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography (developing solvent: hexane-ethyl acetate mixed solvent) to obtain 1.6 g (yield: 88.9%) of ethyl 1-ethyl-1H-pyrazole-4-carboxylate as a yellow oily substance.

reactant | potassium carbonate | 26.8 mmoles, 3.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 26.6 mmoles, 4.2 g | C(C)I | C2H5I
reactant | ethyl 1H-pyrazole-4-carboxylate | 10.7 mmoles, 1.5 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 1-ethyl-1H-pyrazole-4-carboxylate | 1.6 g, yield: 88.9% | C(C)N1N=CC(=C1)C(=O)OCC | C8H12N2O2
